US04642375
19.4 g (0.1 mole) of dimethyl terephthalate and 18.5 g (0.1 mole) of dodecylamine are refluxed in 100 ml of methanol. After addition of 9 g (0.05 mole) of sodim methylate (30% strength in methanol) refluxing is continued for 8 hours, and the reaction batch is then worked up as described in Example 1, affording 31.7 g (91.2%) of 4-carbomethoxybenzoic acid dodecylamide having a 14% terephthalic acid bisdodecylamide content.

reactant | dimethyl terephthalate | 0.1 mole, 19.4 g | C(C1=CC=C(C(=O)OC)C=C1)(=O)OC | C10H10O4
reactant | dodecylamine | 0.1 mole, 18.5 g | C(CCCCCCCCCCC)N | C12H27N
reactant | terephthalic acid bisdodecylamide | C(CCCCCCCCCCC)N(C(C1=CC=C(C(=O)O)C=C1)=O)CCCCCCCCCCCC | C32H55NO3
solvent | methanol | 100 ml | CO | CH4O
product | 4-carbomethoxybenzoic acid dodecylamide | 31.7 g, 91.2% | C(CCCCCCCCCCC)NC(C1=CC=C(C=C1)C(=O)OC)=O | C21H33NO3
